US08198287B2
6.3 (+/−)2-(1-methyl-5-oxo-7-pyrimidin-4-yl-1,2,3,4,4a,5-hexahydronaphthalen-1-yl)-1H-isoindole-1,3(2H)-dione
By analogy with the method described in example 1 (step 1.3), using ethyl 3-(4-pyrimidinyl)-3-oxopropionate (prepared by analogy to the method described in patent DE 2705582) in place of ethyl 3-(pyridin-4-yl)-3-oxopropionate and using 2-(2-amino-3-methyl-3,4,5,6-tetrahydropyridin-3-yl)-1H-isoindole-1,3(2H)-dione hydrochloride (1:1) the compound was obtained as a white powder.

reactant | ethyl 3-(4-pyrimidinyl)-3-oxopropionate | N1=CN=C(C=C1)C(CC(=O)OCC)=O | C9H10N2O3
reactant | ethyl 3-(pyridin-4-yl)-3-oxopropionate | N1=CC=C(C=C1)C(CC(=O)OCC)=O | C10H11NO3
reactant | 2-(2-amino-3-methyl-3,4,5,6-tetrahydropyridin-3-yl)-1H-isoindole-1,3(2H)-dione hydrochloride | Cl.NC1=NCCCC1(C)N1C(C2=CC=CC=C2C1=O)=O
product | (+/−)2-(1-methyl-5-oxo-7-pyrimidin-4-yl-1,2,3,4,4a,5-hexahydronaphthalen-1-yl)-1H-isoindole-1,3(2H)-dione | CC1(CCCC2C(C=C(C=C12)C1=NC=NC=C1)=O)N1C(C2=CC=CC=C2C1=O)=O | C23H19N3O3
